US07932247B2
1,1-dimethylethyl 4-{[3-({[(3′-{[(3S)-3,4-dimethyl-1-piperazinyl]methyl}-6-fluoro-3-biphenylyl)methyl]amino}carbonyl)phenyl]methyl}-1-piperidinecarboxylate
To a solution of 1,1-dimethylethyl 4-{[3-({[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]amino}carbonyl)phenyl]methyl}-1-piperidinecarboxylate (130 mg, 0.21 mmol) in MeOH (5 mL) was added formaldehyde (37% in water, 69 mg, 0.85 mmol). After 30 minutes stirring at rt, sodium borohydride (16 mg, 0.42 mmol) was added. After stirring at rt for additional 3 hours, the solvent was removed to give a residue which was purified by loading onto a 2 g aminopropyl SPE cartridge and eluting sequentially with DCM (3×5 mL), EtOAc (3×5 mL), and MeOH (3×5 mL). The dichloromethane and ethyl acetate fractions were combined and evaporated to give the title compound (130 mg, 99%). LC/MS: m/z, 629 (M+H), 1.97 min.

reactant | 1,1-dimethylethyl 4-{[3-({[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]amino}carbonyl)phenyl]methyl}-1-piperidinecarboxylate | 0.21 mmol, 130 mg | FC1=CC=C(C=C1C1=CC(=CC=C1)CN1C[C@@H](NCC1)C)CNC(=O)C=1C=C(C=CC1)CC1CCN(CC1)C(=O)OC(C)(C)C | C37H47FN4O3
reactant | formaldehyde | 0.85 mmol, 69 mg | C=O | CH2O
reactant | sodium borohydride | 0.42 mmol, 16 mg | [BH4-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | 1,1-dimethylethyl 4-{[3-({[(3′-{[(3S)-3,4-dimethyl-1-piperazinyl]methyl}-6-fluoro-3-biphenylyl)methyl]amino}carbonyl)phenyl]methyl}-1-piperidinecarboxylate | 130 mg, 99% | C[C@H]1CN(CCN1C)CC=1C=C(C=CC1)C1=CC(=CC=C1F)CNC(=O)C=1C=C(C=CC1)CC1CCN(CC1)C(=O)OC(C)(C)C | C38H49FN4O3
